US04474754
To 2.10 g of Z-Leu-Ala-Gln-OH was added 20 ml of acetic acid solution containing 25% of hydrogen bromide, then the mixture was allowed to stand at a room temperature for 1 hour. After the completion of the reaction, dried ether was added to the reaction mixture to obtain H-Leu-Ala-Gln-OH.

reactant | Z-Leu-Ala-Gln-OH | 2.10 g | N([C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C22H32N4O7
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen bromide | Br | BrH
solvent | ether | CCOCC | C4H10O
product | H-Leu-Ala-Gln-OH | N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)O | C14H26N4O5
